US04230715
To 200 ml of methanol is added 3.6 g (0.1 mole) of gaseous HCl followed by 12.7 g (0.1 mole) of O-methylcaprolactam and then 10.6 g (0.1 mole) of thiocarbohydrazide. After heating at reflux for 2 hours, the mixture is allowed to cool to room temperature and is refrigerated. The solid product is recrystallized twice from methanol/ethyl acetate, affording 13.4 g of 4-amino-5-(5-aminopentyl)-4H-1,2,4-triazole-3-thiol hydrochloride. m.p. 192°-194° C.

reactant | HCl | 0.1 mole, 3.6 g | Cl | ClH
reactant | O-methylcaprolactam | 0.1 mole, 12.7 g | COC1=NCCCCC1 | C7H13NO
reactant | thiocarbohydrazide | 0.1 mole, 10.6 g | NNC(=S)NN | CH6N4S
solvent | methanol | 200 ml | CO | CH4O
product | 4-amino-5-(5-aminopentyl)-4H-1,2,4-triazole-3-thiol hydrochloride | 13.4 g | Cl.NN1C(=NN=C1CCCCCN)S | InChI=1S/C7H15N5S.ClH/c8-5-3-1-2-4-6-10-11-7(13)12(6)9;/h1-5,8-9H2,(H,11,13);1H
